US07842694B2
3-{[5-(Azetidin-1-ylcarbonyl)-3-chloropyridin-2-yl]oxy}-5-{[2-fluoro-1-(fluoromethyl)ethyl]oxy}-N-(5-methylpyrazin-2-yl)benzamide
1-Chloro-N,N-2-trimethylpropenylamine (0.08 mL, 0.60 mmol) was added to a solution of 3-{[5-(azetidin-1-ylcarbonyl)-3-chloropyridin-2-yl]oxy}-5-{[2-fluoro-1-(fluoromethyl)ethyl]oxy}benzoic acid (215 mg, 0.5 mmol) in DCM (5 mL) and the reaction stirred at RT for 30-40 minutes. Pyridine (0.08 mL, 1.0 mmol) and 2-amino-5-methylpyrazine (108 mg, 1.0 mmol) were added and the reaction stirred for 16 hours before being concentrated in vacuo and water (20 mL) added. The mixture was extracted with ethyl acetate (3×20 mL), washed with 1N hydrochloric acid (20 mL), a saturated solution of sodium hydrogen carbonate (20 mL), brine (20 mL), dried (MgSO4) and concentrated in vacuo. The crude product was chromatographed on silica, eluting with a gradient of 0-10% methanol in DCM, to give the desired compound as a white solid (150 mg). 1H NMR δ (CDCl3): 2.40 (quintet, 2H), 2.56 (s, 3H), 4.22-4.31 (m, 2H), 4.32-4.40 (m, 2H), 4.62-4.82 (m, 5H), 7.06 (t, 1H), 7.38 (t, 1H), 7.47 (t, 1H), 8.15 (s, 1H), 8.17 (s, 1H), 8.25 (d, 1H), 8.46 (s, 1H), 9.55 (s, 1H); m/z 518 (M+H)+, 516 (M−H)−

reactant | 3-{[5-(azetidin-1-ylcarbonyl)-3-chloropyridin-2-yl]oxy}-5-{[2-fluoro-1-(fluoromethyl)ethyl]oxy}benzoic acid | 0.5 mmol, 215 mg | N1(CCC1)C(=O)C=1C=C(C(=NC1)OC=1C=C(C(=O)O)C=C(C1)OC(CF)CF)Cl | C19H17ClF2N2O5
reactant | Pyridine | 1.0 mmol, 0.08 mL | N1=CC=CC=C1 | C5H5N
reactant | 2-amino-5-methylpyrazine | 1.0 mmol, 108 mg | NC1=NC=C(N=C1)C | C5H7N3
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-{[5-(Azetidin-1-ylcarbonyl)-3-chloropyridin-2-yl]oxy}-5-{[2-fluoro-1-(fluoromethyl)ethyl]oxy}-N-(5-methylpyrazin-2-yl)benzamide | 150 mg | N1(CCC1)C(=O)C=1C=C(C(=NC1)OC=1C=C(C(=O)NC2=NC=C(N=C2)C)C=C(C1)OC(CF)CF)Cl | C24H22ClF2N5O4
